US06897236B1
1-Chloromethyl N-[2-[3-chloro-4-(2-methylbenzoyl)-phenylamino]phenyl]carbamate (Compound 106)
To a cooled (0° C.) solution of chloromethyl chloroformate (4.27 mmol) in EtOAc (20 ml) was slowly added a solution of 4-(2-aminophenylamino)-2-chloro-2′-methylbenzophenone (4.0 mmol) and triethylamine (4.45 mmol) in EtOAc (20 ml) under stirring. Stirring was continued at room temperature for 4 h. The reaction mixture was washed with water and 0.5 M tartaric acid, dried (Na2SO4), filtered and concentrated in vacuo. The crude product was purified by chromatography using Et2O/hexane 4:1 as eluent to give the title compound as white crystals.

reactant | chloromethyl chloroformate | 4.27 mmol | ClC(=O)OCCl | C2H2Cl2O2
reactant | 4-(2-aminophenylamino)-2-chloro-2′-methylbenzophenone | 4.0 mmol | NC1=C(C=CC=C1)NC1=CC(=C(C(=O)C2=C(C=CC=C2)C)C=C1)Cl | C20H17ClN2O
reactant | triethylamine | 4.45 mmol | C(C)N(CC)CC | C6H15N
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | 1-Chloromethyl N-[2-[3-chloro-4-(2-methylbenzoyl)-phenylamino]phenyl]carbamate | ClC=1C=C(C=CC1C(C1=C(C=CC=C1)C)=O)NC1=C(C=CC=C1)NC(OCCl)=O | C22H18Cl2N2O3
